US09446034B2
To a degassed solution of 2,5-dichloro-4-iodopyridine (5 g, 18.26 mmol), 2-amino-4-fluorobenzonitrile (2.485 g, 18.26 mmol) and potassium triphosphate (11.63 g, 54.8 mmol) in 1,4-dioxane (60 ml) stirred under nitrogen at the room temperature was added DPEPhos (0.787 g, 1.460 mmol) and palladium acetate (0.164 g, 0.730 mmol). The reaction mixture was stirred at the reflux for 18 hr. The reaction mixture was filtered. 3-Methyl-1-(1-methylethyl)-1H-pyrazol-5-amine (2.54 g, 18.26 mmol) and cesium carbonate (17.84 g, 54.8 mmol) were added. The reaction mixture was degassed and palladium acetate (0.164 g, 0.730 mmol) and DPEPhos (0.787 g, 1.460 mmol) were added. The reaction mixture was refluxed overnight. The reaction mixture was filtered. NaOH (60 mL, 60.0 mmol) was added and the reaction mixture refluxed overnight. Ethyl acetate was added and the layers were separated. The combined organics were washed with 1 M NaOH (40 ml). The combined aqueous layers were washed with ethyl acetate, and neutralized with acetic acid. 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-4-fluorobenzoic acid (2.5 g, 6.19 mmol, 33.9% yield) was isolated by filtration as a yellow solid. 1H NMR (400 MHz, DMSO-d6) ppm 1.29 (d, J=6.57 Hz, 6 H) 2.12 (s, 3 H) 4.43 (quin, J=6.57 Hz, 1 H) 5.99 (s, 1 H) 6.86 (s, 1 H) 6.87-6.93 (m, 1 H) 7.34 (dd, J=11.62, 2.53 Hz, 1 H) 8.03-8.10 (m, 2 H) 8.62 (s, 1 H) 10.65 (br. s., 1 H); HPLC Rt=2.57 min, MS (ESI): 404.2 [M+H]+.

reactant | 2,5-dichloro-4-iodopyridine | 18.26 mmol, 5 g | ClC1=NC=C(C(=C1)I)Cl | C5H2Cl2IN
reactant | 2-amino-4-fluorobenzonitrile | 18.26 mmol, 2.485 g | NC1=C(C#N)C=CC(=C1)F | C7H5FN2
reactant | potassium triphosphate | 54.8 mmol, 11.63 g | [O-]P([O-])(=O)OP(=O)([O-])OP(=O)([O-])[O-].[K+].[K+].[K+].[K+].[K+]
reactant | DPEPhos | 1.460 mmol, 0.787 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
reactant | 3-Methyl-1-(1-methylethyl)-1H-pyrazol-5-amine | 18.26 mmol, 2.54 g | CC1=NN(C(=C1)N)C(C)C | C7H13N3
reactant | cesium carbonate | 54.8 mmol, 17.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DPEPhos | 1.460 mmol, 0.787 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
reactant | NaOH | 60.0 mmol, 60 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 60 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.730 mmol, 0.164 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 0.730 mmol, 0.164 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-4-fluorobenzoic acid | 6.19 mmol, 2.5 g, 33.9% yield | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C(=O)O)C=CC(=C1)F | C19H19ClFN5O2
